US04364954
3-[N-phenyl-N-(4-nitrophenyl)amino]-1-bromopropane is prepared from N-phenyl-N-(4-nitrophenyl)amine with 3-bromopropionyl chloride, followed by reduction with borane in tetrahydrofuran, by a procedure analogous to the preparation of 3-[N,N-diphenylamino]-1-bromopropane in Example 2.

reactant | N-phenyl-N-(4-nitrophenyl)amine | C1(=CC=CC=C1)NC1=CC=C(C=C1)[N+](=O)[O-] | C12H10N2O2
reactant | 3-bromopropionyl chloride | BrCCC(=O)Cl | C3H4BrClO
reactant | borane | B | BH3
reactant | 3-[N,N-diphenylamino]-1-bromopropane | C1(=CC=CC=C1)N(C1=CC=CC=C1)CCCBr | C15H16BrN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[N-phenyl-N-(4-nitrophenyl)amino]-1-bromopropane | C1(=CC=CC=C1)N(C1=CC=C(C=C1)[N+](=O)[O-])CCCBr | C15H15BrN2O2
